* /home/boi/esim-workspace/test_gilbert/test_gilbert.cir

.include PMOS-180nm.lib
m1 out1 v2 net-_m1-pad3_ net-_m1-pad3_ CMOSP W=100u L=100u M=1
m6 out2 v2 net-_m4-pad3_ net-_m4-pad3_ CMOSP W=100u L=100u M=1
m2 net-_m1-pad3_ v1 net-_i1-pad2_ net-_i1-pad2_ CMOSP W=100u L=100u M=1
m5 net-_m4-pad3_ gnd net-_i1-pad2_ net-_i1-pad2_ CMOSP W=100u L=100u M=1
r1  net-_r1-pad1_ out1 1k
r2  net-_r1-pad1_ out2 1k
* u1  out1 plot_v1
* u2  out2 plot_v1
v3 net-_r1-pad1_ gnd  dc 12
i1 gnd net-_i1-pad2_  dc 5m
m4 out1 gnd net-_m4-pad3_ net-_m4-pad3_ CMOSP W=100u L=100u M=1
m3 out2 gnd net-_m1-pad3_ net-_m1-pad3_ CMOSP W=100u L=100u M=1
v1  v2 gnd sine(0 2 50 0 0)
v2  v1 gnd sine(0 5 100 0 0)
.tran 5e-03 30e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out1) - v(out2)
plot v(v1) v(v2)
.endc
.end
